US07897607B2
Methyl 2,6-dichlorobenzoate
2,6-Dichlorobenzoic acid (5.00 g, 26.2 mmol) was diluted in dimethylcarbonate (44 mL, 530 mmol). 1,8-Diazabicyclo[5.4.0]undec-7-ene (DBU) (3.91 mL, 26.2 mmol) was added last. The reacted was refluxed for 2 days. Upon cooling, the solution was diluted with ethyl acetate and water. The aqueous layer was removed and the organic layer was washed with water, 2N HCl (2×'s), sat. NaHCO3 (2×'s), and twice with water. The organic layer was dried over sodium sulfate, filtered, and concentrated to yield 4.61 g (86%) of the desired compound as a clear oil.

reactant | 2,6-Dichlorobenzoic acid | 26.2 mmol, 5.00 g | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
reactant | dimethylcarbonate | 530 mmol, 44 mL | COC(OC)=O | C3H6O3
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 26.2 mmol, 3.91 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Methyl 2,6-dichlorobenzoate | 4.61 g, 86% | ClC1=C(C(=O)OC)C(=CC=C1)Cl | C8H6Cl2O2
